US06498170B2
1-(Benzo[1,2,5]thiadiazole-4-sulfonyl)-piperidin-4-one
The title compound was prepared from benzo[1,2,5]thiadiazole-4-sulfonyl chloride and 4-piperidone monohydrate hydrochloride according to the procedure of Intermediate 22 as an off-white solid; 1H NMR (CDCl3) δ 2.57 (t, J=6.21 Hz, 2H), 3.77 (t, J=6.21 Hz, 2H), 7.60-7.84 (m, 1H), 8.25-8.32 (m, 1H), 8.40-8.46 (m, 1H); MS (ES) m/z 297.9 (MH+). C11H11N3O3S2

reactant | benzo[1,2,5]thiadiazole-4-sulfonyl chloride | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)Cl | C6H3ClN2O2S2
reactant | 4-piperidone monohydrate hydrochloride | Cl.O.N1CCC(CC1)=O
product | 1-(Benzo[1,2,5]thiadiazole-4-sulfonyl)-piperidin-4-one | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)N2CCC(CC2)=O | C11H11N3O3S2
